US06787543B2
Sodium triacetoxyborohydride (5.6 g) was added portionwise to a mixture of glycine methyl ester hydrochloride (1.63 g), N,N-diisopropylethylamine (2.27 ml) and 2-methoxy-5-(trifluoromethoxy)benzaldehyde (3.8 g) in a mixture of dichloromethane (30 ml) and acetic acid (3 drops) at 0° C. and the whole was stirred at 5° C.˜room temperature overnight. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (2:1). The fractions containing the objective compound were collected and evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution to give N-[2-methoxy-5-(trifluoromethoxy)benzyl]glycine methyl ester hydrochloride (2.76 g) as a colorless powder.

reactant | Sodium triacetoxyborohydride | 5.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | glycine methyl ester hydrochloride | 1.63 g | Cl.COC(CN)=O
reactant | N,N-diisopropylethylamine | 2.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxy-5-(trifluoromethoxy)benzaldehyde | 3.8 g | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | N-[2-methoxy-5-(trifluoromethoxy)benzyl]glycine methyl ester hydrochloride | 2.76 g | Cl.COC(CNCC1=C(C=CC(=C1)OC(F)(F)F)OC)=O | InChI=1S/C12H14F3NO4.ClH/c1-18-10-4-3-9(20-12(13,14)15)5-8(10)6-16-7-11(17)19-2;/h3-5,16H,6-7H2,1-2H3;1H
